US04780462
(1) 2,6-Dimethoxyphenoxyethanol
A mixture of 6.0 g of 2,6-dimethoxyphenol, 6.8 g of ethylene carbonate and 5.4 g of potassium carbonate in 40 ml of toluene was refluxed for 17 hours. After cooling, toluene solution was separated, dried (Na2SO4) and solvent was evaporated. 7.77 g of desired compound was obtained.

reactant | 2,6-dimethoxyphenol | 6.0 g | COC1=C(C(=CC=C1)OC)O | C8H10O3
reactant | ethylene carbonate | 6.8 g | C1(OCCO1)=O | C3H4O3
reactant | potassium carbonate | 5.4 g | C([O-])([O-])=O.[K+].[K+]
solvent | toluene | 40 ml | C1(=CC=CC=C1)C | C7H8
product | 2,6-Dimethoxyphenoxyethanol | 7.77 g | COC1=C(OC(C)O)C(=CC=C1)OC | C10H14O4
